Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vaginal bleeding
 
Major Surgical or Invasive Procedure:
Blood transfusion

 
History of Present Illness:
Ms. ___ is a ___ G1P1002 with a recent
history of a provoked PE while on OCPs now on Xarelto presenting
to  the ___ with heavy vaginal bleeding and anemia for which
OB-GYN was consulted for evaluation and management
recommendations. 

The patient reported being in her routine state of health until
last ___ when she developed SOB/CP and was subsequently
diagnosed with a PE. That was also the beginning of her 
menstrual
cycle. She was started on Xarelto that day. She reports heavy
vaginal bleeding since then changing pads multiple times a day.
She also reports significant fatigue. This prompted her
presentation at ___. She was given 1L of fluid and
transferred to ___ ___ for further management.  

Evaluation at ___ by ___ notable for the following: 
VS: ___ 96.9 98 ___ 97% RA 
Labs: HCT 22.8 (___) OSH -> 20.4 (___) ___
Imaging: PUS showing 8.1 cm uterus w/ a 1cm intramural fibroid
within the posterior uterine body, endometrium is homogenous
measuring 8mm, complex fluid in the cavity c/w blodo products
Interventions: 1 unit transfusion of pRBCs
Decision making: consult OB-GYN 

On my evaluation the patient confirms the findings above. She
denies CP, SOB. Reports significant fatigue. States the bleeding
has decreased. 

ROS: 10 point review of systems is otherwise negative except as
mentioned above

 
Past Medical History:
PMH: history of a provoked PE in the setting of OCP use

PSH: history of prior c/s

OBHx: G2P1002, LTCS for twins 

GYNHx: history of irregular menses for which she was started on
OCPs, denies fibroids, cysts, abnl pap smears

MEDS: rivaroxaban 15 mg BID tablet (last dose ___

ALLERGIES: NKDA

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical Exam on Admission:

VS: 
76 102/59 16 97% RA 
GEN: NAD
Cardio: RRR
Respiratory CTA b/l 
Abdomen: Soft, non-distended, non-tender, no r/g 
Pelvic: moderate amount of clot and watery blood in the vaginal
vault, no active bleeding from the cervix 

_______________________________________________________________

Physical Exam on Discharge:
 Vitals: 24 HR Data (last updated ___ @ 403)
    Temp: 98.4 (Tm 98.6), BP: 101/66 (82-111/52-68), HR: 76
(73-120), RR: 18 (___), O2 sat: 98% (98-100), O2 delivery: RA

I/Os: not recorded

 PE:
 Gen: NAD, resting comfortably in hospital bed. 
 CV: RRR
 Pulm: LCTAB
 Abd: soft, non tender, no rebound/guarding
 GU: pad with scant spotting  (10%)
 Ext: BLE nontender, nonedematous 
 
Pertinent Results:
___ 07:55PM BLOOD WBC-8.3 RBC-2.34* Hgb-6.7* Hct-20.4* 
MCV-87 MCH-28.6 MCHC-32.8 RDW-14.0 RDWSD-42.8 Plt ___
___ 07:55PM BLOOD Neuts-51.8 ___ Monos-4.9* Eos-1.3 
Baso-0.4 Im ___ AbsNeut-4.30 AbsLymp-3.39 AbsMono-0.41 
AbsEos-0.11 AbsBaso-0.03
___ 05:45AM BLOOD WBC-8.2 RBC-3.05* Hgb-8.8* Hct-26.9* 
MCV-88 MCH-28.9 MCHC-32.7 RDW-14.5 RDWSD-44.7 Plt ___

___ 08:04PM BLOOD ___ PTT-32.4 ___
___ 08:52AM BLOOD ___ PTT-25.6 ___
___ 08:52AM BLOOD ___ 07:55PM BLOOD Glucose-109* UreaN-5* Creat-0.7 Na-141 
K-4.2 Cl-110* HCO3-23 AnGap-8*
___ 08:18AM BLOOD Glucose-118* UreaN-6 Creat-0.7 Na-140 
K-4.3 Cl-106 HCO3-26 AnGap-8*
___ 08:18AM BLOOD Calcium-8.3* Phos-2.6* Mg-2.0

___ 10:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
Ms. ___ was admitted to the Gynecology service from the 
Emergency Department with heavy vaginal bleeding in the setting 
of recent pulmonary embolism while on OCPs, on anticoagulation 
with Xarelto since presentation to the ___ and 
diagnosis on ___. Her hematocrit was 22.8 on presentation to the 
___ ___, and down to 20.4 on presentation to the ___ 
___ that evening. She received 2 units of packed red blood cells, 
and her hematocrit rose appropriately to 30.1 on the morning of 
___.

In the ___, she had a pelvic ultrasound demonstrating an 8.1 cm 
uterus with a 1cm intramural fibroid within the posterior 
uterine body, endometrium homogenous 8mm, complex fluid in the 
cavity consistent with blood products.

When she arrived to the floor, the Gynecology team discussed the 
safety of giving Provera with ___ to try to limit the 
vaginal bleeding, and they deemed that this medication would be 
safe. They also approved of tranexamic acid in the setting of 
concurrent anticoagulation. She was continued on her home 
Xarelto dose and she was started on a course of 20mg Provera 
daily. She was also continued on her home iron and vitamin C 
supplementation.

On the afternoon of ___, her bleeding had improved, she was no 
longer dizzy with walking, and she was tolerating food without 
nausea or vomiting. She was deemed stable for discharge and was 
sent home on a course of 10mg Provera daily with a prescription 
for Tranexamic acid in case of acute heavy vaginal bleeding. She 
will have close interval follow-up at ___.
 
Medications on Admission:
Ferrous sulfate
Vitamin C
Rivaroxaban
 
Discharge Medications:
1.  MedroxyPROGESTERone Acetate 10 mg PO DAILY 
RX *medroxyprogesterone 10 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1 
2.  tranexamic acid ___ mg oral Q8H 
Take for heavy vaginal bleeding (soaking >1pad/hr x2hrs)  
RX *tranexamic acid ___ mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  Rivaroxaban 15 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abnormal vaginal bleeding
s/p 2 units packed RBC
pulmonary embolism on anticoagulation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Gynecology service from the Emergency 
Department for observation and treatment of your bleeding. You 
received 2 units of packed red blood cells and your blood counts 
improved. Your bleeding has improved since arrival. Please 
continue taking provera 10mg daily for control of your bleeding. 


If you have an episode of acute vaginal bleeding, please call 
the office immediately. You can take a tablet of tranexamic acid 
(TXA) to help stop bleeding. 

We will help schedule follow up with a gynecologist to discuss 
further options for birth control. 

For your pulmonary embolism, please continue xarelto 15mg twice 
per day until ___. You can then transition to xarelto 20mg 
daily. Please follow up with Atrius Hematology/Oncology for 
further discussion of your anticoagulation medications. 

The team feels it is safe for you to go home. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr for >2 hours
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___